US04282245
To a mixture of 300 mg of 2-(10,11-dihydro-7-fluoro-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide and 3 ml of acetic acid was added 3 ml of hydrochloric acid, and the resulting mixture was stirred at 100° C. for 2 hours. After cooling, to this was added water, and the mixture was extracted with ethyl acetate. The extract was re-extracted with a dilute sodium hydroxide solution. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed by distillation to obtain yellow crystals, which were recrystallized from benzene, thereby obtaining 200 mg (yield: 67%) of 2-(10,11-dihydro-7-fluoro-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid as colorless crystals having a melting point of 147.5°-148° C.

reactant | 2-(10,11-dihydro-7-fluoro-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide | 300 mg | FC1=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)N)C)=O)C=C1 | C17H14FNO2S
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | water | O | H2O
product | 2-(10,11-dihydro-7-fluoro-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid | 200 mg, yield: 67% | FC1=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)O)C)=O)C=C1 | C17H13FO3S
